US08664401B2
To a solution of 2-methyl-4-(3-methyl-2-oxo-4-phenylpyridin-1(2H)-yl)-2-(methylsulfonyl)butanoic acid (109.4 mg, 0.301 mmol) in methylene chloride (3 mL) at ambient temperature was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (80.7 mg, 0.421 mmol), 1-hydroxy benzotriazole monohydrate (83 mg, 0.542 mmol), triethyl amine (75 uL, 0.542 mmol) and O-tetrahydro-2H-pyran-2-yl-hydroxylamine (53 mg, 0.452 mmol). The resulting mixture was stirred at ambient temperature overnight. The mixture was diluted with methylene chloride and washed successively with sat. aqeous sodium bicarbonate, aqueous HCl (1N) and water. The organic extracts were dried over magnesium sulfate, filtered and concentrated to a crude residue. The crude residue was purified via silica gel chromatography eluting with methylene chloride and methanol. The fractions containing the desired product were combined and concentrated to afford 2-methyl-4-(3-methyl-2-oxo-4-phenylpyridin-1(2H)-yl)-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide as a solid. 137.3 mg

reactant | 2-methyl-4-(3-methyl-2-oxo-4-phenylpyridin-1(2H)-yl)-2-(methylsulfonyl)butanoic acid | 0.301 mmol, 109.4 mg | CC(C(=O)O)(CCN1C(C(=C(C=C1)C1=CC=CC=C1)C)=O)S(=O)(=O)C | C18H21NO5S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.421 mmol, 80.7 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy benzotriazole monohydrate | 0.542 mmol, 83 mg | O.ON1N=NC2=C1C=CC=C2
reactant | triethyl amine | 0.542 mmol, 75 uL | C(C)N(CC)CC | C6H15N
reactant | O-tetrahydro-2H-pyran-2-yl-hydroxylamine | 0.452 mmol, 53 mg | O1C(CCCC1)ON | C5H11NO2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-methyl-4-(3-methyl-2-oxo-4-phenylpyridin-1(2H)-yl)-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | CC(C(=O)NOC1OCCCC1)(CCN1C(C(=C(C=C1)C1=CC=CC=C1)C)=O)S(=O)(=O)C | C23H30N2O6S
